US05977105
c) 3'-Acetyl-4-trifluoromethanesulfonyloxybiphenyl
Solid N-phenyltrifluoromethanesulfonimide (2.0 g) was added to a suspension of 3'-acetylbiphenyl-4-ol (1.2 g) in dichloromethane (25 ml). The mixture was cooled to 4° C. and triethylamine (0.6 g) was added. The resulting yellow solution was allowed to warm to room temperature and then stirred for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue purified by column chromatography over silica eluting with ethyl acetate:hexane (1:4) to give the sub-title compound as a yellow oil (1.82 g).

reactant | N-phenyltrifluoromethanesulfonimide | 2.0 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 3'-acetylbiphenyl-4-ol | 1.2 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C14H12O2
reactant | triethylamine | 0.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3'-Acetyl-4-trifluoromethanesulfonyloxybiphenyl | 1.82 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C15H11F3O4S
